US07807709B2
H. (3S,4R)-3-Hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (8.75 g, 14.37 mmol) in THF (50 mL) is added tetrabutylammonium fluoride trihydrate (6.8 g, 24.55 mmol) under a nitrogen atmosphere. The reaction mixture is stirred overnight. Water and AcOEt are added, the layers are separated and the aqueous one extracted twice with AcOEt. The combined organic extracts are dried (Na2SO4), and the solvent is removed in vacuo. The crude product is purified by flash chromatography on silica gel (eluent: CH2Cl2/MeOH 97:3 to 95:5) to give the title product. TLC, Rf (CH2Cl2/MeOH 95:5)=0.3. MS (LC-MS): 395.1 [M+H-Boc]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 5.01 min.

reactant | (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 14.37 mmol, 8.75 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C(O[SiH2]C(C)(C)C)(C)C | C32H56N2O7Si
reactant | tetrabutylammonium fluoride trihydrate | 24.55 mmol, 6.8 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3S,4R)-3-Hydroxymethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CO | C26H42N2O7
